US07989628B2
N2-(5-Methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=254.4 (M+H+), was prepared in accordance with the general method of example 1 from 5-nitro-2-chloroquinoline and 5-methyl-2-furanmethanamine.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
product | N2-(5-Methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)N | C15H15N3O
